US06503907B2
410 mg (1.8 mmol) 1-(4-Fluoro-phenyl)-1H-indol-5-ol in 6 ml acetone were treated with 500 mg (3.6 mmol) powdered K2CO3 and 610 μl (3.6 mmol) 1,7-dibromoheptane. The suspension was stirred at 60° C. overnight, cooled to RT, filtered and concentrated. Column chromatography on silica gel with hexane/EtOAc 49:1 yielded 526 mg (72%) 5-(7-Bromo-heptyloxy)-1-(4-fluoro-phenyl)-1H-indole as colorless solid, mp 63-65° C., MS: 403 (M, 1Br).

reactant | 1-(4-Fluoro-phenyl)-1H-indol-5-ol | 1.8 mmol, 410 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,7-dibromoheptane | 3.6 mmol, 610 μl | BrCCCCCCCBr | C7H14Br2
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 5-(7-Bromo-heptyloxy)-1-(4-fluoro-phenyl)-1H-indole | 526 mg, 72% | BrCCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H23BrFNO
